US07728030B2
2,2,2-trifluoro-N-((1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-ylthio)-1-phenylpropan-2-yl)acetamide
To (1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-ylthio)-1-phenylpropan-2-amine (0.024 g, 0.06 mmol) in MeOH (2.5 mL), 1,1,3,3-tetramethylguanidine (0.056 mL, 0.45 mmol) and ethyl trifluoroacetate (0.114 mL, 0.95 mmol) was added and the mixture was stirred at rt O/N and than submitted to purification on HPLC. The relevant fractions were collected freezdried to give 16 mg of product (53% yield) which was analysed by LC/MS and NMR.

reactant | (1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-ylthio)-1-phenylpropan-2-amine | 0.06 mmol, 0.024 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)S[C@@H]([C@H](C)N)C1=CC=CC=C1 | C22H20FN3S
reactant | 1,1,3,3-tetramethylguanidine | 0.45 mmol, 0.056 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | ethyl trifluoroacetate | 0.95 mmol, 0.114 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | MeOH | 2.5 mL | CO | CH4O
product | 2,2,2-trifluoro-N-((1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-ylthio)-1-phenylpropan-2-yl)acetamide | 16 mg, 53% yield | FC(C(=O)N[C@H]([C@@H](C1=CC=CC=C1)SC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C)(F)F | C24H19F4N3OS
